US04075236
Sodium hydroxide (25% aqueous solution), 2-ethylhexanoyl chloride (93%), 2,5-dimethyl-2,5-dihydroperoxyhexane (70%) are introduced into the mixing reactor (21) along with an aliphatic organic solvent (hexane, heptane etc.) at the rate of 51 lbs/hr, 31 lbs/hr and 38 lbs/hr respectively. The temperature in the reaction zone 21 is maintained at about 30° C and that in the after reaction zone 22 at about 20° C. The product 2,5-dimethyl-2,5-di(2-ethylhexanoylperoxy)hexane is obtained at the rate of about 50 lbs/hr.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 2-ethylhexanoyl chloride | C(C)C(C(=O)Cl)CCCC | C8H15ClO
reactant | 2,5-dimethyl-2,5-dihydroperoxyhexane | CC(C)(CCC(C)(OO)C)OO | C8H18O4
product | 2,5-dimethyl-2,5-di(2-ethylhexanoylperoxy)hexane | CC(C)(CCC(C)(OOC(C(CCCC)CC)=O)C)OOC(C(CCCC)CC)=O | C24H46O6
